US07247734B2
Resorcinol (4.4 g, 40 mmol) and 4-methoxyphenylacetic acid (6.6 g, 40 mmol) in boron trifluoride.etherate (25 ml, 0.2 mol) was heated, under a nitrogen atmosphere, at 90° C. for ˜90 mins. to give a pale red solution. The solution was allowed to cool and poured into aqueous sodium acetate (200 ml, 10%) and the mixture stirred to give a pale yellow precipitate. The solids were removed by filtration and washed with water (200 ml). Solids were taken up in ethyl acetate (250 ml) and washed with water (200 ml). Solution was dried over anhyrous magnesium sulphate and concentrated, to a yellow semi-solid. Trituration with diethyl ether (100 ml) gave the 1-(2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone as a pale orange solid, dried in vacuo, (2.2 g)

reactant | Resorcinol | 40 mmol, 4.4 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 4-methoxyphenylacetic acid | 40 mmol, 6.6 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | sodium acetate | 200 ml | C(C)(=O)[O-].[Na+]
solvent | boron trifluoride | B(F)(F)F | BF3
product | 1-(2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone | OC1=C(C=CC(=C1)O)C(CC1=CC=C(C=C1)OC)=O | C15H14O4
